Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion, PE, transfer
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with history of gout, HTN,
Graves' disease s/p thyroidectomy, asthma, who presents with
dyspnea. He states that ___ months ago he started having dyspnea
worse on exertion, but it was not that bothersome to him. He 
then
went to ___ 3 weeks ago and while on a bike ride, he
developed acute shortness of breath which caused him to fall. He
also sustained a right wrist fracture. He has had progressive
shortness of breath since that time. Upon arriving back from
___, he saw his PCP who diagnosed him with pneumonia and
treated him with 5 days of antibiotics, which he finished on the
day of presentation. Upon awakening on the morning of
presentation, he had acute worsening of his shortness of breath
and thus presented to ___. There, he was found to have
bilateral segmental PEs with with evidence of right heart strain
on CTA. He had negative troponin and BNP at this time. He
therefore was transferred to ___.

Upon arrival to ___ ED, he was asymptomatic while lying in 
bed.
Vitals notable for hypertension to 185/98, improved to 160/98
prior to transfer to the floor. Otherwise unremarkable with SpO2
98% on room air and no tachycardia. Exam notable for flat neck
veins, unremarkable pulmonary and cardiac exams. Bedside echo
without dilated RV ___ sign. He was started on a 
heparin
gtt and admitted to medicine.

Upon arrival to the floor, he endorses the story as above. He
notes that he is up to date on all cancer screening: had a
colonoscopy ___ year ago with 3 polyps removed that were all
benign, had a prostate biopsy prior to travel to ___ this 
year
that was benign.
 
Past Medical History:
Asthma
Hypertension
Gout
Graves' disease
S/p thyroidectomy
 
Social History:
___
Family History:
-Brother 1: Graves' disease (required 2 doses of I-131)
-Brother 2: bipolar disorder, medication-induced cirrhosis,
deceased
-Brother 3: T1DM (diagnosed at age ___
-Father: colon cancer
-Mother: stroke
-M grandmother: T2DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ Temp: 98.2 PO BP: 165/91 L Lying HR: 79 
RR:
18 O2 sat: 94% O2 delivery: RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: Sclera anicteric and without injection. MMM.
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
EXTREMITIES: R forearm with cast in place. No clubbing, 
cyanosis,
or edema.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously.

DISCHARGE PHYSICAL EXAM:
========================
VS: 24 HR Data (last updated ___ @ 1123)
    Temp: 98.2 (Tm 99.0), BP: 131/80 (131-167/74-92), HR: 90
(84-116), RR: 20 (___), O2 sat: 96% (92-97%), O2 delivery: Ra  


GENERAL: Sitting up in bed, NAD
PULM: Breathing comfortably. Crackles auscultated in R middle
lung field.
CARDIAC: RRR. Audible S1/S2.
EXTREMITIES: R forearm in cast.
NEURO: A&Ox3
 
Pertinent Results:
Initial Labs:
___ 09:13PM   GLUCOSE-105* UREA N-17 CREAT-1.1 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-25 ANION GAP-12
___ 09:13PM   ALT(SGPT)-66* AST(SGOT)-27 ALK PHOS-107 TOT 
BILI-0.4
___ 09:13PM   cTropnT-<0.01
___ 09:13PM   CALCIUM-8.7 PHOSPHATE-3.6 MAGNESIUM-2.1
___ 09:13PM   WBC-8.7 RBC-4.28* HGB-13.2* HCT-38.5* MCV-90 
MCH-30.8 MCHC-34.3 RDW-12.3 RDWSD-40.2
___ 09:13PM   PLT COUNT-251
___ 09:13PM   ___ PTT-79.5* ___

Discharge Labs:
___ 06:29AM BLOOD WBC-12.1* RBC-4.45* Hgb-13.5* Hct-40.0 
MCV-90 MCH-30.3 MCHC-33.8 RDW-12.1 RDWSD-40.1 Plt ___
___ 06:29AM BLOOD ___ PTT-40.4* ___
___ 06:29AM BLOOD Glucose-109* UreaN-23* Creat-1.3* Na-143 
K-4.6 Cl-104 HCO3-23 AnGap-16
___ 06:29AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.3

================

___   ___ 5:01 ___ 
EMERG BILAT LOWER EXT VEINS
Reason: eval for DVT  

Final Report 
EXAMINATION:  EMERG BILAT LOWER EXT VEINS 
  
INDICATION:  ___ year old man with PE// eval for DVT 
  
TECHNIQUE:  Grey scale, color, and spectral Doppler evaluation 
was performed 
on the bilateral lower extremity veins. 
  
COMPARISON:  None. 
  
FINDINGS:  
There is nonocclusive thrombus of the right common femoral vein 
and occlusive 
thrombus of the proximal femoral vein.  The mid femoral vein 
bifurcates, with 
the deeper branch showing occlusive thrombus and the more 
superficial branch 
demonstrating compressibility.  The right popliteal vein and 
peroneal veins 
demonstrate normal color flow and compressibility.  The right 
posterior tibial 
veins are noncompressible. 
There is normal compressibility, color flow, and spectral 
doppler of the left 
common femoral, femoral, and popliteal veins. Normal color flow 
and 
compressibility are demonstrated in the posterior tibial and 
peroneal veins. 
There is normal respiratory variation in the common femoral 
veins bilaterally. 
No evidence of medial popliteal fossa (___) cyst. 
  
IMPRESSION: 
1. Nonocclusive thrombus of the right common femoral vein and 
occlusive 
thrombus of the right femoral vein and posterior tibial veins. 
2. No evidence of deep venous thrombosis in the leftlower 
extremity veins. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on SAT ___ 6:19 
___ 
 
==============

Transthoracic Echo Report, ___
Cardiology Echo Attending: ___, MD
Sonographer: ___, ___
INDICATION(S): right heart strain, dyspnea, pulmonary embolus

CONCLUSION:
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal
cavity size. There is normal regional and global left 
ventricular systolic function. Quantitative 3D
volumetric left ventricular ejection fraction is 60 % (normal 
54-73%). Left ventricular cardiac index
is normal (>2.5 L/min/m2). There is no resting left ventricular 
outflow tract gradient. Normal right
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal for gender with
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal
descending aorta diameter. The aortic valve leaflets (?#) appear 
structurally normal. There is no aortic
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets appear structurally normal with
no mitral valve prolapse. There is trivial mitral regurgitation. 
The pulmonic valve leaflets are normal.
The tricuspid valve leaflets appear structurally normal. There 
is physiologic tricuspid regurgitation. The
pulmonary artery systolic pressure could not be estimated. The 
end-diastolic PR velocity is elevated
suggesting pulmonary artery diastolic hypertension. There is no 
pericardial effusion.

IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes and regional/global biventricular systolic 
function. No valvular pathology or pathologic flow identified. 
Indeterminate pulmonary artery systolic pressure. Increased 
pulmonary artery diastolic pressure.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with history of gout, HTN, 
Graves' disease s/p thyroidectomy, asthma, who presents with 
dyspnea. He states that ___ months ago he started having dyspnea 
worse on exertion, but it was not that bothersome to him. He 
then went to ___ 3 weeks ago and while on a bike ride, he 
developed acute shortness of breath which caused him to fall. He 
also sustained a right wrist fracture. He has had progressive 
shortness of breath since that time. Upon awakening on the 
morning of presentation on ___, he had acute worsening of his 
shortness of breath and thus presented to ___. There, he 
was found to have bilateral segmental PEs on CTA. He was 
transferred to ___ for further evaluation and treatment. 

#Acute bilateral segmental PE
#Right lower extremity DVT
Patient with recent travel to ___ with fall and fractured 
bone during the trip, presented with worsening shortness of 
breath. CTA at ___ showed bilateral segmental pulmonary 
embolism with beside echocardiography not suggest of right heart 
strain and biomarkers within normal limits. After transfer to 
___, patient was started on heparin gtt and was transitioned 
to Apixaban on ___. Lower extremity U/S revealed right lower 
extremity DVT. TTE did not reveal right heart strain and showed 
normal systolic function. He improved with anticoagulation and 
was able to ambulate without desaturating below 92% on room air 
prior to discharge.

CHRONIC ISSUES
#Asthma
Patient was on Fluticasone 110 mcg 1 puff BID in place of home 
budesonide as this is non formulary.

#Hypothyroidism 
TSH was checked in hospital and was normal at 1.2. We continued 
home levothyroxine. 

#Hypertension
We continued home amlodipine and monitored his BP.

#Gout
We continued home allopurinol. 

TRANSITIONAL ISSUES:
-Continue Apixaban for ___ months. Follow respiratory status. 
Thought to be a provoked DVT in the setting of prolonged 
immobility with travel and fracture. Can discuss lifelong given 
his ongoing risk factors.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. amLODIPine 2.5 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Levothyroxine Sodium 125 mcg PO 6X/WEEK (___) 
5. budesonide 180 mcg/actuation inhalation BID 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days  
2.  Apixaban 5 mg PO BID: Start after completing 7 days of 10 mg 
Apixaban BID  
3.  Allopurinol ___ mg PO DAILY  
4.  amLODIPine 2.5 mg PO DAILY  
5.  budesonide 180 mcg/actuation inhalation BID  
6.  Levothyroxine Sodium 125 mcg PO 6X/WEEK (___)  

7.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Acute bilateral segmental pulmonary embolism
Deep Vein Thrombosis of right leg

Secondary Diagnosis:
Asthma
Hypertension
Gout
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were transferred to ___ for worsening shortness of 
breath. You were found to have clots in multiple arteries (known 
as a pulmonary embolism) in both lungs. You were also found to 
have multiple clots (known as a deep vein thrombosis) in the 
veins of your right leg. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- During your hospital stay, you had an ultrasound scan of your 
legs to check for clots. You had an ultrasound scan of your 
heart. You were treated for your lung and leg clots with heparin 
and was switched to apixaban. Your shortness of breath was 
closely monitored and treated.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.
-Please continue activity as tolerated. 

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___